US05846982
1-phenylsulfonyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)-1H-indole
A solution of lithium diisopropylamide (15.5 mMol in tetrahydrofuran) was added via cannula to a solution of 4.0 gm (15.5 mMol) 1-phenylsulfonyl-1H-indole in 100 mL tetrahydrofuran at -78° C. The reaction mixture was stirred at this temperature for 1.5 hours, warmed to room temperature for 1 hour and then cooled again to -78° C. To this solution was then added a solution of 2.94 mL (15.9 mMol) 1-benzyl-4-piperidinone in tetrahydrofuran and the resulting mixture was allowed to warm to room temperature over 18 hours. The reaction mixture was then partitioned between saturated aqueous sodium bicarbonate and diethyl ether. The phases were separated and the organic phase washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with a dichloromethane gradient containing 0-2% methanol. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 3.23 gm (47%) of the desired compound as an off-white solid.

reactant | lithium diisopropylamide | 15.5 mMol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-phenylsulfonyl-1H-indole | 15.5 mMol, 4.0 gm | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
reactant | 1-benzyl-4-piperidinone | 15.9 mMol, 2.94 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-phenylsulfonyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)-1H-indole | 3.23 gm, 47% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C1(CCN(CC1)CC1=CC=CC=C1)O | C26H26N2O3S
